US04952587
(d) 4-[2-(1-Methylindol-3-yl)-1,3,4-oxadiazol-5-yl]-1-Methyl-1,2,5,6-tetrahydropyridine hydrogen chloride
4-[2-(1-methylindol-3-yl)-1,3,4-oxadiazol-5-yl]-1-methylpyridinium iodide (1.0 g) was suspended in a mixture of ethanol (50 ml) and water (5 ml) with vigorous stirring. NaBH4 (200 mg) was added portionwise until the solution was clear and colourless. The solution was stirred for one hour at room temperature. 2N Hydrochloric acid (10 ml) was added to quench the excess NH4OH, followed by 0.88 NH3 to pH 12, the solution was then extracted with dichloromethane (4×100 ml), dried over MgSO4 and evaporated to dryness. The residue was purified by chromatography on silica eluting with methanol/dichloromethane (2:98). The isolated product was treated with an excess of ethereal HCl, recrystallisation from absolute methanol afforded the title compound as a white solid m.p. 245°-250° C. Found: C, 61.35; H, 5.85; N, 16.74; C17H18N4OCl requires C 61.72; H, 5.78; N, 16.93%; δH (360 MHz, D2O 2.67 (2H, bm, CH2 --N--CH3), 3.07 (3H, s, N--CH3), 3.4 (2H, brm, CH2N--CH3), 3.55 (3H, s, N--CH3), 3.48 (2H, brm, CH2CH2N), 6.27 (1H, brm, C=CH--CH2), 7.09 (2H, brm, H-5,6), 7.11 (1H, d, J=5 Hz, H-4), 7.22 (1H, s, H-2), 7.35 (1H, d, J=5 Hz, H-7); m/z 294 (M+ free base, 100%), 158 (40), 110 (30), 94 (30), 77 (10).

reactant | 4-[2-(1-methylindol-3-yl)-1,3,4-oxadiazol-5-yl]-1-methylpyridinium iodide | 1.0 g | [I-].CN1C=C(C2=CC=CC=C12)C=1OC(=NN1)C1=CC=[N+](C=C1)C
reactant | NaBH4 | 200 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 4-[2-(1-Methylindol-3-yl)-1,3,4-oxadiazol-5-yl]-1-Methyl-1,2,5,6-tetrahydropyridine hydrogen chloride | Cl.CN1C=C(C2=CC=CC=C12)C=1OC(=NN1)C1=CCN(CC1)C | InChI=1S/C17H18N4O.ClH/c1-20-9-7-12(8-10-20)16-18-19-17(22-16)14-11-21(2)15-6-4-3-5-13(14)15;/h3-7,11H,8-10H2,1-2H3;1H
